US06245761B1
Preparation of 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-(methoxycarbonyl)ethyl] -1H-indole
A round bottom flask was charged with 10% palladium on activated carbon (0.150 g), 20 ml of N,N-dimethylformamide and 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-(methoxycarbonyl)ethenyl]-1H-indole (1.44 g, 4.22 mmol). The reaction vessel was then placed under a hydrogen atomsphere for two hours. The reaction mixture was then passed through a CELITE™ pad and then partitioned between water and methylene chloride. The aqueous fraction was extracted twice with methylene chloride. The organic fractions were combined, washed with water and then brine, and dried over sodium sulfate. The solvents were removed in vacuo. The desired title product was further purified by chromatography.

reactant | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-(methoxycarbonyl)ethenyl]-1H-indole | 4.22 mmol, 1.44 g | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2C=CC(=O)OC)C)C=C1 | C20H18ClNO3
catalyst | palladium on activated carbon | 0.150 g | [Pd] | Pd
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-(methoxycarbonyl)ethyl] -1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2CCC(=O)OC)C)C=C1 | C20H20ClNO3
